US04057573
With stirring, 6 ml of dimethyl sulphide are added at 0° C in an atmosphere of nitrogen to a suspension of 8.05 g of N-chlorosuccinimide in 200 ml of absolute toluene and then at -25° C a solution of 12 g of crude 5-hydroxymethylphenyl-6-methoxy-indane-1-carboxylic acid methyl ester in 50 ml of absolute toluene is added. Upon completion of the addition, the mixture is further stirred for 90 minutes at -25° C. Then 8.3 ml of triethylamine are added to the reaction solution, which is stirred for a further 5 minutes and partitioned between 2 × 100 ml of 2 normal hydrochloric acid and 2 × 100 ml of ether. The organic phases are washed neutral, dried over sodium sulphate and evaporated to dryness in vacuo. The residue is chromatographed on silica gel with methylene chloride as eluant to yield 5-benzoyl-6-methoxy-indane-1-carboxylic acid methyl ester.

reactant | dimethyl sulphide | 6 ml | CSC | C2H6S
reactant | N-chlorosuccinimide | 8.05 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 5-hydroxymethylphenyl-6-methoxy-indane-1-carboxylic acid methyl ester | 12 g | COC(=O)C1(CCC2=CC=C(C=C12)OC)C1=CC=CC(=C1)CO | C19H20O4
reactant | triethylamine | 8.3 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-benzoyl-6-methoxy-indane-1-carboxylic acid methyl ester | COC(=O)C1CCC2=CC(=C(C=C12)OC)C(C1=CC=CC=C1)=O | C19H18O4
